US07749992B2
Step 3. Preparation of N-(3,5-Bis-trifluoromethyl-benzyl-N-[8-chloro-1-(2-methyl-2H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide
To a solution of N-(3,5-Bis-trifluoromethyl-benzyl-N-[8-chloro-1-(1H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide (0.55 mmol, 0.29 g) in CH2Cl2 (5 mL) was added triphenyl phosphine (0.55 mmol, 0.14 g) and diethylazo dicarboxylate (0.55 mmol, 90.0 μL) at 0° C. To the above mixture, MeOH (2.75 mmol, 0.11 μL) was added and warmed to room temperature for 48 h. After completion, the reaction mixture was diluted with water (20 mL), extracted with EtOAC (3×25 mL) and the combined organic layers were washed with water and brine. The organic phase was dried (Na2SO4) and concentrated in vacuo. The crude compound was purified by flash column chromatography to afford the title compound as colorless foam; Rf 0.60 (EtOAc-Hexane, 1:1, v/v); MS (ES+): 547 (M+H+).

reactant | 3,5-Bis-trifluoromethyl-benzyl-N-[8-chloro-1-(1H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide | 0.55 mmol, 0.29 g | FC(C=1C=C(CCC(=O)NC2C3=C(N(CCC2)C2=NN=NN2)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C22H19ClF6N6O
reactant | triphenyl phosphine | 0.55 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazo dicarboxylate | 0.55 mmol, 90.0 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | MeOH | 2.75 mmol, 0.11 μL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 3,5-Bis-trifluoromethyl-benzyl-N-[8-chloro-1-(2-methyl-2H-tetrazol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide | FC(C=1C=C(CCC(=O)NC2C3=C(N(CCC2)C=2N=NN(N2)C)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C23H21ClF6N6O
